US07820704B2
4-Chloro-N-[4-(4-isopropyl-phenyl)-pyrimidin-2-yl]-N-(1H-tetrazol-5-yl methyl)-benzenesulfonamide was prepared from 4-chloro-N-[4-(4-isopropyl-phenyl)-pyrimidin-2yl]-benzenesulfonamide via N-alkylation with bromoacetonitrile using general procedure S (method 1) followed by tetrazole formation using general procedure H. LCMS m/z: 471 (M+1)+.

reactant | 4-chloro-N-[4-(4-isopropyl-phenyl)-pyrimidin-2yl]-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC(=N1)C1=CC=C(C=C1)C(C)C | C19H18ClN3O2S
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
reactant | tetrazole | N1N=NN=C1 | CH2N4
product | 4-Chloro-N-[4-(4-isopropyl-phenyl)-pyrimidin-2-yl]-N-(1H-tetrazol-5-yl methyl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1=NN=NN1)C1=NC=CC(=N1)C1=CC=C(C=C1)C(C)C | C21H20ClN7O2S
